US05705502
31 mg (0.78 mmol) of sodium hydroxide are added to a suspension of 150 mg (0.7 mmol) of 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one and 165 mg (0.71 mmol) of 3-chloro-phenyl-guanidine nitrate in 1.5 ml of 2-propanol. After stirring under reflux for 18 hours, the reaction mixture is cooled and filtered and the material retained on the filter is washed thoroughly with water. After drying (60°, HV), N-(3-chloro-phenyl)-4-(2-chloro-4-pyridyl)-2-pyrimidineamine is obtained; m.p. 196°-198°, Rf =0.67 (methylene chloride:methanol=95:5), FAB-MS: 317 (M+ +1).

reactant | sodium hydroxide | 0.78 mmol, 31 mg | [OH-].[Na+]
reactant | 3-dimethylamino-1-(2-chloro-4-pyridyl)-2-propen-1-one | 0.7 mmol, 150 mg | CN(C=CC(=O)C1=CC(=NC=C1)Cl)C | C10H11ClN2O
reactant | 3-chloro-phenyl-guanidine nitrate | 0.71 mmol, 165 mg | [N+](=O)(O)[O-].ClC=1C=C(C=CC1)NC(=N)N
solvent | 2-propanol | 1.5 ml | CC(C)O | C3H8O
product | N-(3-chloro-phenyl)-4-(2-chloro-4-pyridyl)-2-pyrimidineamine | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C15H10Cl2N4
